US04604406
The 6-methoxy-5-(pentafluoroethyl)-1-naphthalenecarboxylic acid, methyl ester (2.82 g, 8.44 mmol), methanol (50 ml) and 2N aqueous sodium hydroxide (8.43 ml) were stirred at room temperature overnight. The mixture was cooled to 0° C., neutralized with 1N aqueous hydrochloric acid to pH 8 and the methanol evaporated off. Water was added to the residue and neutral impurities were removed by extraction with ethyl acetate. The aqueous layer was cooled to 0°, acidified to pH 1-3 with 1N aqueous hydrochloric acid, the product extracted with ethylacetate, the extract washed with brine and dried over anhydrous MgSO4. Evaporation gave 2.14 g of crude 6-methoxy-5-(pentafluoroethyl)-1-naphthalene carboxylic acid which was used, without further purification, in the next step. nmr (DMSO): δ4.05 (s, 3H, OCH3); δ8.0 (m, 4H, Har); δ9.1 (d, 1H, J=9, Har) ms: m/e 320 (M+), 303, 251, 203.

reactant | 6-methoxy-5-(pentafluoroethyl)-1-naphthalenecarboxylic acid, methyl ester | 8.44 mmol, 2.82 g | COC=1C(=C2C=CC=C(C2=CC1)C(=O)OC)C(C(F)(F)F)(F)F | C15H11F5O3
reactant | sodium hydroxide | 2N, 8.43 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 6-methoxy-5-(pentafluoroethyl)-1-naphthalene carboxylic acid | 2.14 g | COC=1C(=C2C=CC=C(C2=CC1)C(=O)O)C(C(F)(F)F)(F)F | C14H9F5O3
